US04263437
A mixture of 50 mg of (5,6-dihydro-6-oxo benzo[b]pyrido-[3,2-f]thiepin-8-yl)-acetamide, 200 mg of potassium hydroxide, 2 ml of water and 15 ml of methanol was refluxed under a nitrogen atmosphere for 4 hours. After the completion of the reaction, the solvent was distilled off to obtain a residue, to which was added ice water. The mixture was acidified with acetic acid and extracted with chloroform. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was removed by distillation to obtain an oil, which was chromatographed over silica gel and eluted with chloroform/ethanol (200/1) to obtain a solid. This solid was recrystallized from ethanol to give 15 mg (yield: 30%) of (5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]thiepin-8-yl)-acetic acid as colorless needle crystals having a melting point of 212°-213.5° C.

reactant | (5,6-dihydro-6-oxo benzo[b]pyrido-[3,2-f]thiepin-8-yl)-acetamide | 50 mg | O=C1C2=C(SC3=C(C1)C=CC=N3)C=CC(=C2)CC(=O)N | C15H12N2O2S
reactant | potassium hydroxide | 200 mg | [OH-].[K+]
reactant | water | 2 ml | O | H2O
reactant | methanol | 15 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]thiepin-8-yl)-acetic acid | 15 mg, yield: 30% | O=C1C2=C(SC3=C(C1)C=CC=N3)C=CC(=C2)CC(=O)O | C15H11NO3S
